US09353121B2
A mixture of benzaldehyde (290 μL, 2.87 mmol, 1.0 equ.), malononitrile (190 mg, 2.87 mmol, 1.0 equ.) and triethylamine (400 μL, 2.87 mmol, 1.0 equ.) in ethanol (10 mL) was stirred for 1 min, followed by the addition of 1,3-dimethyl-1H-pyrazol-5(4H)-one (322 mg, 2.87 mmol, 1 equiv.). The reaction mixture was concentrated after 19 h and washed with ethanol and hexanes. The crude material was purified by column chromatography on SiO2 (25% ethyl acetate in n-hexanes to 100% ethyl acetate) and then re-crystallized from ethanol to give 6-amino-1,3-dimethyl-4-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitril (263 mg, 0.988 mmol, 34%) as a yellow powder. 1H-NMR (400 MHz) DMSO: 7.34-7.32 (m, 2H), 7.25-7.23 (t, 1H), 7.19-7.17 (d, 2H), 7.05 (s, 2H), 4.57 (s, 1H), 3.60 (s, 3H), 1.66 (s, 3H), 13C-NMR (100 MHz) DMSO: 159.9, 144.6, 144.4, 142.9, 128.8, 128.0, 127.3, 120.6, 96.5, 58.7, 37.5, 33.8, 12.8; LC/MS-MS: 267.0→201.3 m/z; GS1 and GS2 at 30, DP=61, CE=29, CXP=12, tR=3.74 min.

reactant | benzaldehyde | 2.87 mmol, 290 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | malononitrile | 2.87 mmol, 190 mg | C(CC#N)#N | C3H2N2
reactant | triethylamine | 2.87 mmol, 400 μL | C(C)N(CC)CC | C6H15N
reactant | 1,3-dimethyl-1H-pyrazol-5(4H)-one | 2.87 mmol, 322 mg, 1 equiv. | CN1N=C(CC1=O)C | C5H8N2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-amino-1,3-dimethyl-4-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitril | 0.988 mmol, 263 mg, 34% | NC1=C(C(C2=C(N(N=C2C)C)O1)C1=CC=CC=C1)C#N | C15H14N4O
